US05529766
b) Methylene bis(3-methoxypropenoate)
Methylene bis(3,3-dimethoxypropionate) (14.01 g, 50 mmol) prepared as described in (a) above and a catalytic amount of p-toluene sulfonic acid is added to toluene (250 ml). The methanol is removed by warming the reaction under an N2 atmosphere. When the reaction is complete the toluene is distilled off under reduced pressure. Diethyl ether (250 ml) is added and the mixture is washed with saturated aqueous sodium hydrogen carbonate (5×50 ml) and water (3×50 ml). The organic layer is dried (MgSO4) before evaporation to give 8.52 g (79%) product. 1H NMR (300 MHz, CDCl3): δ 3.65 (2×CH3, s), 5.2 (2×CH, d), 5.8 (O--CH2 --O), 7.65 (2×CH2, d).

reactant | Methylene bis(3,3-dimethoxypropionate) | 50 mmol, 14.01 g | COC(CC(=O)OCOC(CC(OC)OC)=O)OC | C11H20O8
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | Methylene bis(3-methoxypropenoate) | 8.52 g, 79% | COC=CC(=O)OCOC(C=COC)=O | C9H12O6
